data/cycloadd/train.csv
Unnamed: 0,rxn_id,AAM,solvent,temp,G_act,G_r
580,636,[CH3:11][NH:12][C:13](=[O:14])[C:15]([C:16]#[N:17])=[N+:18]([CH3:19])[CH-:20][C:21]#[N:22].[CH3:1][NH:2][C:3](=[O:4])[C:5]#[C:6][C:7]([F:8])([F:9])[F:10]>>[CH3:1][NH:2][C:3](=[O:4])[C:5]1=[C:6]([C:7]([F:8])([F:9])[F:10])[C:15]([C:13]([NH:12][CH3:11])=[O:14])([C:16]#[N:17])[N:18]([CH3:19])[CH:20]1[C:21]#[N:22],water,298.15,18.284141052981656,-41.2343546429806
3348,3799,[CH2:7]=[N+:8]([CH3:9])[C-:10]([CH3:11])[c:12]1[cH:13][cH:14][cH:15][cH:16][cH:17]1.[CH3:1][C:2]([CH3:3])=[C:4]([CH3:5])[CH3:6]>>[CH3:1][C:2]1([CH3:3])[C:4]([CH3:5])([CH3:6])[C:10]([CH3:11])([c:12]2[cH:13][cH:14][cH:15][cH:16][cH:17]2)[N:8]([CH3:9])[CH2:7]1,water,298.15,18.250820224679853,-30.440725196378565
4704,5362,[CH3:10][O:11][C:12](=[O:13])[C:14](=[O+:15][CH-:16][c:17]1[cH:18][cH:19][cH:20][cH:21][cH:22]1)[C:23]([CH3:24])=[O:25].[CH3:1][C:2]([CH3:3])=[CH:4]/[CH:5]=[CH:6]/[C:7]([CH3:8])=[CH2:9]>>[CH3:1][C:2]([CH3:3])=[CH:4][C@H:5]1[C@H:6]([C:7]([CH3:8])=[CH2:9])[CH:16]([c:17]2[cH:18][cH:19][cH:20][cH:21][cH:22]2)[O:15][C:14]1([C:12]([O:11][CH3:10])=[O:13])[C:23]([CH3:24])=[O:25],water,298.15,13.925016419164672,-23.74050882781627
4090,4683,[CH2:1]1[CH:2]=[CH:3][N:4]([CH3:5])[CH:6]=[C:7]1[C:8]([NH2:9])=[O:10].[CH3:11][NH:12][C:13](=[O:14])[CH-:15][N+:16]([CH3:17])=[C:18]([C:19]#[N:20])[C:21]#[N:22]>>[CH2:1]1[CH:2]=[CH:3][N:4]([CH3:5])[C@H:6]2[C@:7]1([C:8]([NH2:9])=[O:10])[CH:15]([C:13]([NH:12][CH3:11])=[O:14])[N:16]([CH3:17])[C:18]2([C:19]#[N:20])[C:21]#[N:22],water,298.15,19.65333510330654,-7.305970378075736
882,955,[CH3:13][NH:14][C:15](=[O:16])[C:17]([CH3:18])=[O+:19][CH-:20][C:21]#[N:22].[F:1][C:2]([F:3])([F:4])[C:5]1=[C:6]([Cl:7])[CH:8]2[CH:9]=[CH:10][CH:11]1[O:12]2>>[F:1][C:2]([F:3])([F:4])[C:5]12[C:6]([Cl:7])([CH:8]3[CH:9]=[CH:10][CH:11]1[O:12]3)[C:17]([C:15]([NH:14][CH3:13])=[O:16])([CH3:18])[O:19][CH:20]2[C:21]#[N:22],water,298.15,8.518595640579962,-55.89419940351687
1875,2079,[CH3:12][NH:13][C:14](=[O:15])[C-:16]([O+:17]=[C:18]([CH3:19])[c:20]1[cH:21][cH:22][cH:23][cH:24][cH:25]1)[C:26](=[O:27])[NH:28][CH3:29].[CH3:1][C:2](=[O:3])[CH:4]=[C:5]([C:6]([CH3:7])=[O:8])[C:9]([CH3:10])=[O:11]>>[CH3:1][C:2](=[O:3])[CH:4]1[C:5]([C:6]([CH3:7])=[O:8])([C:9]([CH3:10])=[O:11])[C:18]([CH3:19])([c:20]2[cH:21][cH:22][cH:23][cH:24][cH:25]2)[O:17][C:16]1([C:14]([NH:13][CH3:12])=[O:15])[C:26](=[O:27])[NH:28][CH3:29],water,298.15,15.109916374004106,-27.018646748995927
1591,1760,[CH3:11][NH:12][C:13](=[O:14])[C:15]([C:16]#[N:17])=[NH+:18][C-:19]([C:20](=[O:21])[NH:22][CH3:23])[C:24](=[O:25])[NH:26][CH3:27].[CH3:1][O:2][C:3]([C:4]#[N:5])=[C:6]([O:7][CH3:8])[O:9][CH3:10]>>[CH3:1][O:2][C:3]1([C:4]#[N:5])[C:6]([O:7][CH3:8])([O:9][CH3:10])[C:19]([C:20](=[O:21])[NH:22][CH3:23])([C:24](=[O:25])[NH:26][CH3:27])[NH:18][C:15]1([C:13]([NH:12][CH3:11])=[O:14])[C:16]#[N:17],water,298.15,34.43647258416067,2.87727223067217
1585,1754,[CH3:13][NH:14][C:15](=[O:16])[c:17]1[nH+:18][c-:19](-[c:20]2[cH:21][cH:22][cH:23][cH:24][cH:25]2)[c:26](=[O:27])[o:28]1.[CH3:1][NH:2][C:3](=[O:4])[C:5]1=[C:6]([CH3:7])[CH:8]2[CH:9]=[CH:10][CH:11]1[O:12]2>>[CH3:1][NH:2][C:3](=[O:4])[C:5]12[C:6]([CH3:7])([CH:8]3[CH:9]=[CH:10][CH:11]1[O:12]3)[C:17]1([C:15]([NH:14][CH3:13])=[O:16])[NH:18][C:19]2([c:20]2[cH:21][cH:22][cH:23][cH:24][cH:25]2)[C:26](=[O:27])[O:28]1,water,298.15,16.04856428311943,-8.252256598800964
4634,5284,[CH2:1]1[CH:2]=[CH:3][N:4]([CH3:5])[CH:6]=[C:7]1[C:8]([NH2:9])=[O:10].[CH3:11][C:12](=[O:13])[C-:14]([N+:15]#[C:16][c:17]1[cH:18][cH:19][cH:20][cH:21][cH:22]1)[C:23]([CH3:24])=[O:25]>>[CH2:1]1[C@H:2]2[C@@H:3]([N:4]([CH3:5])[CH:6]=[C:7]1[C:8]([NH2:9])=[O:10])[C:16]([c:17]1[cH:18][cH:19][cH:20][cH:21][cH:22]1)=[N:15][C:14]2([C:12]([CH3:11])=[O:13])[C:23]([CH3:24])=[O:25],water,298.15,24.149806025124203,-20.45774569522158
149,166,[CH3:1][O:2][C:3](=[O:4])[C:5]#[C:6][C:7]#[N:8].[CH3:9][NH:10][C:11](=[O:12])[CH-:13][N+:14]#[C:15][C:16]([CH3:17])=[O:18]>>[CH3:1][O:2][C:3](=[O:4])[C:5]1=[C:6]([C:7]#[N:8])[CH:13]([C:11]([NH:10][CH3:9])=[O:12])[N:14]=[C:15]1[C:16]([CH3:17])=[O:18],water,298.15,9.859522457207436,-68.42352671282676
3266,3691,[CH3:1][C:2]([CH3:3])=[C:4]([CH3:5])[CH3:6].[CH3:7][NH:8][C:9](=[O:10])[CH-:11][O+:12]=[C:13]([CH3:14])[C:15]#[N:16]>>[CH3:1][C:2]1([CH3:3])[C:4]([CH3:5])([CH3:6])[CH:11]([C:9]([NH:8][CH3:7])=[O:10])[O:12][C:13]1([CH3:14])[C:15]#[N:16],water,298.15,10.806139043266844,-55.63553460787279
2750,3056,[CH3:18][O:19][C:20](=[O:21])[C:22]([C:23]([CH3:24])=[O:25])=[N+:26]([CH3:27])[C-:28]([CH3:29])[c:30]1[cH:31][cH:32][cH:33][cH:34][cH:35]1.[N:1]#[C:2][C:3]1([C:4]#[N:5])[C:6]#[C:7][C:8]([Br:9])([C:10]([F:11])([F:12])[F:13])[CH2:14][CH2:15][CH2:16][CH2:17]1>>[N:1]#[C:2][C:3]1([C:4]#[N:5])[C:6]2=[C:7]([C:8]([Br:9])([C:10]([F:11])([F:12])[F:13])[CH2:14][CH2:15][CH2:16][CH2:17]1)[C:28]([CH3:29])([c:30]1[cH:31][cH:32][cH:33][cH:34][cH:35]1)[N:26]([CH3:27])[C:22]2([C:20]([O:19][CH3:18])=[O:21])[C:23]([CH3:24])=[O:25],water,298.15,34.1259717775844,-17.642389048430317
